US05308857
A solution of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (7.00 g) and dimethyl N-cyanodithioiminocarbonate (4.31 g) in N,N-dimethylformamide (70 ml) was stirred at 70° C. for two hours. 40% Aqueous methylamine by weight (14 ml) was added to the warmed solution and the mixture was stirred for an additional one hour at the same temperature. After the solvent was evaporated in vacuo, the residue was chromatographed on alumina, eluting with a mixture of chloroform and methanol (9:1, V/V), followed by recrystallization from a mixture of methanol, tetrahydrofuran and diisopropyl ether to afford 2-(diaminomethyleneamino)-4-[5-(2-cyano-3-methylguanidino)methylfuran-2-yl]thiazole (4.05 g).

reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 7.00 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
reactant | dimethyl N-cyanodithioiminocarbonate | 4.31 g | CSC(=NC#N)SC | C4H6N2S2
reactant | methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-[5-(2-cyano-3-methylguanidino)methylfuran-2-yl]thiazole | 4.05 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=NC#N)NC | C12H14N8OS
